US06992087B2
6-cyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.75-1.13, 1.53-1.59, 2.31, 2.98-3.09, 3.35-3.40, 3.57-3.65, 4.23-4.25, 5.37, 5.62, 7.12-7.42; MS (ESI+) for C25H25Cl2N3O m/z 454 (M+H)+.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[6-cyclopropyl-5-(2,4-dichlorophenyl)-3-methylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)O)C)C1=C(C=C(C=C1)Cl)Cl | C23H21Cl2N3O
product | 6-cyclopropyl-5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3-methylpyrazin-2-amine | C1(CC1)C1=C(N=C(C(=N1)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)C)C1=C(C=C(C=C1)Cl)Cl | C25H25Cl2N3O
